US05665606
Acridine carboxylic acid hydrate (4.6 g, made by Aldrich Chemical Company) was dissolved in 200 ml of dioxane, and 2.4 g of thionyl chloride (made by Kanto Kagaku K.K.) was added thereto dropwise. The reaction was carried out at 60° C. for 1 hour. To this was further added 1.15 g of arylamine and heated at 60° C. for 2 hours. The solution was concentrated under reduced pressure to 50 ml, crystallized by ice cooling, and separated by filtration to obtain 2.2 g of arylamineamide of acridine carboxylic acid.

reactant | Acridine carboxylic acid hydrate | 4.6 g | O.C1(=CC=CC2=NC3=CC=CC=C3C=C12)C(=O)O
reactant | thionyl chloride | 2.4 g | S(=O)(Cl)Cl | Cl2OS
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | acridine carboxylic acid | C1(=CC=CC2=NC3=CC=CC=C3C=C12)C(=O)O | C14H9NO2
